US08242104B2
To a solution of ethyl thiooxamate (29.6 g, 0.22 mol) in DCM (260 mL) at RT was added trimethyloxonium tetrafluoroborate (34.5 g, 0.23 mol) and the mixture stirred at RT for 2 h. During this time the yellow colour faded and a thick white precipitate was formed. Acetic acid N′-isopropylhydrazide (27.1 g, 0.23 mol) and TEA (30.9 mL, 0.22 mol) were added as a solution in DCM (75 mL) causing the precipitate to dissolve. The reaction mixture was stirred at reflux for 5 h then at RT for 10 h. The reaction mixture was washed with water, and the aqueous layer extracted with DCM (2×50 mL). The combined organic extracts were washed with brine, dried (MgSO4) and concentrated in vacuo. The resultant residue was subjected to flash chromatography (SiO2, gradient 0-100% ethyl acetate in cyclohexane) to give 2-Isopropyl-5-methyl-2H-[1,2,4]triazole-3-carboxylic acid ethyl ester as a pale yellow oil which crystallised on standing (15.6 g, 32%). 1H NMR 400 MHz (CDCl3) δ: 5.49 (1H, sept, J=6.7 Hz), 4.45 (2H, t, J=7.2 Hz), 2.43 (3H, s), 1.50 (6H, d, J=6.7 Hz), 1.44 (3H, t, J=7.2 Hz)

reactant | ethyl thiooxamate | 0.22 mol, 29.6 g | C(C(=O)N)(=S)OCC | C4H7NO2S
reactant | trimethyloxonium tetrafluoroborate | 0.23 mol, 34.5 g | F[B-](F)(F)F.C[O+](C)C
reactant | Acetic acid N′-isopropylhydrazide | 0.23 mol, 27.1 g | C(C)(C)NNC(C)=O | C5H12N2O
solvent | DCM | 260 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 75 mL | C(Cl)Cl | CH2Cl2
product | 2-Isopropyl-5-methyl-2H-[1,2,4]triazole-3-carboxylic acid ethyl ester | C(C)OC(=O)C=1N(N=C(N1)C)C(C)C | C9H15N3O2
